US07838543B2
Step 3. N-{2-[(6-Amino-benzothiazol-2-yl)-methyl-amino]-ethyl}-N-methyl-acetamide
Shake a mixture of N-methyl-N-{2-[methyl-(6-nitro-benzothiazol-2-yl)-amino]-ethyl}-acetamide (0.30 g, mmol) and Pd/C (5%, 0.1515 g) in absolute ethanol (50 mL) and anhydrous THF (20 mL) under 60 psi H2(g) at room temperature for 18 h. Filter the mixture and concentrate in vacuo. Residue re-subjected to hydrogenation using Pd/C (0.2101 g) in absolute ethanol (50 mL) and THF (10 mL) to yield the desired product (0.209 g). Adsorb onto silica gel and subject to silica gel flash column chromatography (12 g column, eluting with 1-5% MeOH/CH2Cl2). Adsorbed on a Silicycle cartridge (Si-Tosic Acid, 35 mL, 10 g) washing with MeOH and eluted with 2N NH3 in MeOH. The product is 70% pure by LC-MS (0.146 g, %). mass spectrum (m/e): 279.0 (M+1). Used without further purification.

reactant | N-methyl-N-{2-[methyl-(6-nitro-benzothiazol-2-yl)-amino]-ethyl}-acetamide | 0.30 g | CN(C(C)=O)CCN(C=1SC2=C(N1)C=CC(=C2)[N+](=O)[O-])C | C13H16N4O3S
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 0.1515 g | [Pd] | Pd
product | N-{2-[(6-Amino-benzothiazol-2-yl)-methyl-amino]-ethyl}-N-methyl-acetamide | 0.209 g | NC1=CC2=C(N=C(S2)N(CCN(C(C)=O)C)C)C=C1 | C13H18N4OS
